US08497263B2
To a mixture of 4-(1-ethylpropyl)-5-(4-isoxazol-3-ylphenyl)-3-(6-methoxypyridin-3-yl)-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one (0.067 g, 0.15 mmol) and sodium iodide (0.067 g, 0.45 mmol) in acetonitrile (3 mL) was added chlorotrimethylsilane (0.058 mL, 0.45 mmol). The mixture was heated under reflux with stirring for 1 h. Water (50 mL) and ethyl acetate (50 mL) were added to the mixture, and the precipitate was collected by filtration and dried to give 4-(1-ethylpropyl)-5-(4-isoxazol-3-ylphenyl)-3-(6-oxo-1,6-dihydropyridin-3-yl)-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one (0.041 g, 64%) as slightly yellow crystals.

reactant | 4-(1-ethylpropyl)-5-(4-isoxazol-3-ylphenyl)-3-(6-methoxypyridin-3-yl)-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one | 0.15 mmol, 0.067 g | C(C)C(CC)C1N(C(C=2NN=C(C21)C=2C=NC(=CC2)OC)=O)C2=CC=C(C=C2)C2=NOC=C2 | C25H25N5O3
reactant | sodium iodide | 0.45 mmol, 0.067 g | [I-].[Na+]
reactant | chlorotrimethylsilane | 0.45 mmol, 0.058 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | Water | 50 mL | O | H2O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-(1-ethylpropyl)-5-(4-isoxazol-3-ylphenyl)-3-(6-oxo-1,6-dihydropyridin-3-yl)-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one | 0.041 g, 64% | C(C)C(CC)C1N(C(C=2NN=C(C21)C2=CNC(C=C2)=O)=O)C2=CC=C(C=C2)C2=NOC=C2 | C24H23N5O3
